US07820699B2
69.1 Using general procedure E, (R)-3-aminomethyl-1-N-tert-butoxycarbonyl-pyrrolidine was coupled with 5-chloro-1H-indole-2-carboxylic acid to give (R)-3-{[(5-chloro-1H-indole-2-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester. Pale yellow solid. MS 376.4 ([M−H]−)

reactant | (R)-3-aminomethyl-1-N-tert-butoxycarbonyl-pyrrolidine | NC[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 5-chloro-1H-indole-2-carboxylic acid | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
product | (R)-3-{[(5-chloro-1H-indole-2-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)CNC(=O)C=1NC2=CC=C(C=C2C1)Cl | C19H24ClN3O3
